US06184236B2
a) trans-[4-(4-Benzyloxy-phenyl)-cyclohexyl]-methyl-(3-phenyl-propyl)-amine
A mixture of trans-[4-(4-benzyloxy-phenyl)-cyclohexyl]-(3-phenyl-propyl)-amine (0.4 g, 1.0 mmol), 36.5% aq. formaldehyde (0.12 ml) and MeOH (7 ml) was stirred overnight at RT. Excess sodium borohydride was then added, and stirring was continued for 2 h. Evaporation of the solvent, addition of H2O, extraction with CH2Cl2, drying of the organic layer with Na2SO4, evaporation of the solvent and purification of the residue by chromatography over SiO2 (Merck 230-400 mesh) eluting with CH2Cl2—MeOH—25% aq. NH3 140:10:1 trans-[4-(4-benzyloxy-phenyl)-cyclohexyl]-methyl-(3-phenyl-propyl)-amine (0.41 g, 99%) as a colorless oil. MS: m/e=413 (M+).

reactant | trans-[4-(4-benzyloxy-phenyl)-cyclohexyl]-(3-phenyl-propyl)-amine | 1.0 mmol, 0.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)NCCCC1=CC=CC=C1 | C28H33NO
reactant | formaldehyde | 0.12 ml | C=O | CH2O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | MeOH | 7 ml | CO | CH4O
product | trans-[4-(4-Benzyloxy-phenyl)-cyclohexyl]-methyl-(3-phenyl-propyl)-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(CCCC1=CC=CC=C1)C | C29H35NO
